Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year male with history of hypertension who
presented following an unwitnessed fall. 

Patient has been in his usual state of health. On the day of
admission, the patient and his wife were on a long phone call
with the insurance company. Then the patient went to check on 
the
kitchen downstairs due to a water leakage problem. On his way
down, the wife heard a thud. She ran to check on him, and found
him lying down on his back after a fall of approximately 8
stairs. The patient was awake. The patient had no recollection 
of
the fall but remembered waking up on the floor with the EMT
providers. He denied any chest pain, shortness of breath,
palpitations, fever, chills, nausea, vomiting. He had not had 
any
prior syncopal episodes but he has had gait difficulties in the
past. The wife reported an episode of pre-syncope a year ago,
that was thought to be related to hypertension at which time he
was started on lisinopril 2.5 mg.

Per review of PCP records, there have been ongoing concerns 
about
his unsteady gait. He refused to use a cane and opted to pay
attention when going up and down the stairs. Also, he has a
history of cardiac murmur.

In the ED, initial VS were:  98.4 ___ 16 100% RA 

Exam notable for:  Well-appearing, no acute distress
 
Labs showed:  
WBC 13.3  N: 81.7  H/H  15.5/45.8   platelets 216 
Na 141   K 4.3  creatinine  0.9  
Trop-T: <0.01 

Imaging showed: 
CXR:
1. 1.5 cm opacity projecting over the right lower lobe in the 
mid
clavicular line is concerning for pulmonary nodule.
2. No acute cardiopulmonary process.
Chest CT to evaluate the 1.5 cm right lower lobe suspected 
nodule
is requiredon a nonemergent basis.

CT head without contrast:
No acute intracranial abnormality. Moderate brain atrophy with
bifrontal predominance.

CT spine without contrast:
1. No cervical spinal fracture or traumatic malalignment.
2. Mild-to-moderate degenerative changes in the cervical spine,
as detailed above.

ECG: Regular sinus rhythm at a rate of 105 beats per minute, PR
221 ms, QTc 458 ms, early repolarization in V2 through V4, TWI 
in
aVL.

Patient received: Nothing

Given concern for high risk syncope, the plan was to admit the
patient to geriatrics for echocardiogram and further monitoring. 


On arrival to the floor, patient reported that he was
comfortable. He had no recollection of the fall. His wife
provided most of the history. He had no complaints. 
 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY: 
1.  Benign prostatic hypertrophy.
2.  History of bladder stones.
3.  Colonic adenoma removed in ___.
4.  Urinary retention.
5.  Hypertension.

PAST SURGICAL HISTORY:
1.  Removal of cystic hygroma removed from the back of his 
neckon
the right.
2.  In ___, partial excision of lung which turned out to be a
hamartoma.
3.  In ___, nephrectomy for what turned out to be a 
nonmalignant
lesion of his kidney.
4.  Splenectomy removed because there was a mistaken thought 
that
this was a metastatic lesion.
5.  In ___, hernia repair.
6.  In ___, open bladder surgery to remove part of the 
prostate,
which was blocking the urethra.
 
Social History:
___
Family History:
Mother died at age ___ from colon cancer.  Father died at age ___
from old age.  Sister age ___ is still alive.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS: 196/110 R Lying 110 20 97% RA
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, loud systolic murmur was appreciated, no
gallops or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: Nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: No cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: Warm and well perfused, no excoriations or lesions, no
rashes 

ADMISSION PHYSICAL EXAM: 
VS: 99.1F 166/88 HR 91 RR 16 95% RA 
GENERAL: lying in bed comfortably, NAD 
HEENT: AT/NC, PERRL, EOMI, no JVD  
HEART: RRR, +systolic murmur heard best at RUSB, no radiation to 
carotids 
LUNGS: CTAB, no wheezes/rales/rhonchi 
ABDOMEN: soft, non-distended, non-tender, no organomegaly, +BS 
EXTREMITIES: warm, non-edematous, non-tender, 2+ DP pulses   
NEURO: A&Ox3, symmetric strength, sensation intact, left hand 
resting tremor 
 
Pertinent Results:
___ 11:23PM URINE  RBC-2 WBC-50* BACTERIA-NONE YEAST-NONE 
EPI-0
___ 11:23PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG*
___ 08:47PM   GLUCOSE-110* UREA N-18 CREAT-0.9 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-24 ANION GAP-15
___ 08:47PM   cTropnT-<0.01
___ 08:47PM   TSH-0.74
___ 08:47PM   WBC-13.3*# RBC-4.42* HGB-15.5 HCT-45.8 
MCV-104* MCH-35.1* MCHC-33.8 RDW-14.0 RDWSD-53.9*
___ 08:47PM   PLT COUNT-216

___ WBC 8.2 H/H 14.___.2 Plt 204

IMAGING

CXR ___ 
1.  1.5 cm opacity projecting over the right lower lobe in the 
mid clavicular 
line is concerning for a pulmonary nodule. 
2.  No acute cardiopulmonary process. 
RECOMMENDATION(S):  Chest CT to evaluate the 1.5 cm right lower 
lobe suspected 
nodule is required on a nonemergent basis. 

CT Head ___
1. No acute intracranial abnormality. 
2. Moderate brain atrophy with bifrontal predominance. 

CT C-spine ___
1.  No cervical spinal fracture or traumatic malalignment.  
2.  Mild-to-moderate degenerative changes in the cervical spine, 
as detailed 
above. 
3.  Bilateral thyroid nodules measure up to 11 mm on the right. 
RECOMMENDATION(S):  Thyroid nodule.  No follow up recommended. 
Absent suspicious imaging features, unless there is additional 
clinical 
concern, ___ College of Radiology guidelines do not 
recommend further 
evaluation for incidental thyroid nodules less than 1.0 cm in 
patients under age ___ or less than 1.5 cm in patients age ___ or 
___. 

TTE ___ 
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Right ventricular chamber size and free wall 
motion are normal. The aortic valve leaflets are moderately 
thickened. There is mild aortic valve stenosis (valve area 
1.2-1.9cm2). No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is a 
trivial/physiologic pericardial effusion. IMPRESSION: Normal 
global and regional biventricular systolic function. Mild aortic 
stenosis. Mild mitral regurgitation.  
 
Brief Hospital Course:
___ year male with history of hypertension who presented after an
unwitnessed fall.

#Fall/Possible Syncope: 
Patient had an unwitnessed fall down the stairs, likely with LOC 
since he does not recall the details of the fall and woke up to 
seeing EMTs. Likely mechanical fall given his previous unsteady 
wide-based gait and walking down the stairs. He describes 
feeling stressed about insurance issues so vasovagal episode not 
ruled out but he did not experience any SOB, palpitations, 
diaphoresis, nausea, chest pain. Orthostatics was negative. He 
underwent a TTE, which showed mild aortic stenosis, mild mitral 
regurgitation, and normal biventricular systolic function. TSH 
was wnl. Patient was monitored on telemetry and only had one 
event of sinus tachycardia with HR up to 130. ___ evaluated his 
gait and recommended discharge home w/o services. Of note, 
patient's gait abnormality and resting tremor on exam is 
suggestive of possible early ___ disease (did not 
appreciate cogwheel rigidity, however).

#Leukocytosis: 
Patient had WBC 13.3 on admission, but was afebrile. CXR 
negative for pneumonia. UA had 50 WBC, but patient did not 
endorse any urinary symptoms. WBC decreased to 8.2 the next day. 


#Hypertension: 
Patient was given 5 mg lisinopril while inpatient given high 
BPs. He was agreeable to increasing dose of lisinopril to 5 mg 
daily. 

TRANSITIONAL ISSUES: 
Changed Medications: Lisinopril 5 mg daily (from 2.5 mg daily) 

[ ] Patient's lisinopril was increased to 5 mg daily given HTN 
throughout admission. His blood pressure medication may need 
further titration. 
[ ] Needs follow-up for mild aortic stenosis (valve area 1.2-1.9 
c,2)
[ ] Needs follow-up for an incidental 1.5 cm opacity was found 
in the RLL on CXR concerning for a pulmonary nodule. 
[ ] On CT C-spine, bilateral thyroid nodules measuring up to 11 
mm were visualized. Per radiology recommendations, no follow-up 
recommended because nodules less than 1.5 cm in patients ages 
>___ require no further evaluation. 
[ ] Please note, patient was noted to have a mild pill-rolling 
tremor and if develops persistent or worsening symptoms or gait 
instability would evaluate for early parkinsonism. 

FOLLOW-UP 
-PCP ___ 1 week of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 2.5 mg PO DAILY 

 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Syncope 
Mild aortic stenosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___ 

___ BROUGHT YOU INTO THE HOSPITAL?
- You were admitted for a fall 

WHAT WAS DONE FOR YOU IN THE HOSPITAL?
- You had a CT scan of your head that did not show any bleeding. 

- You had an echocardiogram of your heart, which showed mild 
aortic stenosis (stiffening of one of the heart valves) and mild 
mitral regurgitation (leakiness of one of the other valves).  
- You received an extra dose of lisinopril for high blood 
pressure. 

WHAT SHOULD YOU DO AFTER LEAVING THE HOSPITAL?
- It is important that you continue to take your medications as 
prescribed.
- You need to follow up with your PCP ___ ___ days. Please 
call Dr. ___ to make an appointment at ___. 

We wish you the best in your recovery!

Your ___ Care Team

 
Followup Instructions:
___